US06140100
Ethyl 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoate
To a 500 mL 3-neck flask equipped with a magnetic stirrer, a nitrogen inlet, and a reflux condenser were added 5.00 g of 9-bromomethyl-3-methylbenzo(f)quinazolin-1(2H)-one, 3.02 g of ethyl 4-amino-2-fluorobenzoate, 4.17 g of NaHCO3, and 42 mL of anhydrous DMF. The reaction mixture was heated to 100° C. with stirring under nitrogen for 1.5 h.

reactant | 9-bromomethyl-3-methylbenzo(f)quinazolin-1(2H)-one | 5.00 g | BrCC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1 | C14H11BrN2O
reactant | ethyl 4-amino-2-fluorobenzoate | 3.02 g | NC1=CC(=C(C(=O)OCC)C=C1)F | C9H10FNO2
reactant | NaHCO3 | 4.17 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-2-fluorobenzoate | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC(=C(C(=O)OCC)C=C3)F | C23H20FN3O3
